US07825132B2
After all the 5-(4-methyl-piperazin-1-yl)-2-nitroaniline had disappeared from the reaction, the solution was purged with N2 for 15 minutes. Next, 440.0 g (2.25 mol) of ethyl 3-ethoxy-3-iminopropanoate hydrochloride was added as a solid. The reaction was stirred at 40-50° C. (internal temperature) until the reaction was complete. The reaction was monitored by following the disappearance of the diamino compound by HPLC. The typical reaction time was 1-2 hours. After the reaction was complete, it was cooled to room temperature and filtered through a pad of Celite filtering material. The Celite filtering material was washed with absolute EtOH (2×250 mL), and the filtrate was concentrated under reduced pressure providing a thick brown/orange oil. The resulting oil was taken up in 850 mL of a 0.37% HCl solution. Solid NaOH (25 g) was then added in one portion, and a precipitate formed. The resulting mixture was stirred for 1 hour and then filtered. The solid was washed with H2O (2×400 mL) and dried at 50° C. in a vacuum oven providing 251.7 g (74.1%) of [6-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-acetic acid ethyl ester as a pale yellow powder.

reactant | 5-(4-methyl-piperazin-1-yl)-2-nitroaniline | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
reactant | ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 2.25 mol, 440.0 g | Cl.C(C)OC(CC(=O)OCC)=N
reactant | HCl | Cl | ClH
reactant | NaOH | 25 g | [OH-].[Na+]
product | [6-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-acetic acid ethyl ester | 251.7 g, 74.1% | C(C)OC(CC1=NC2=C(N1)C=C(C=C2)N2CCN(CC2)C)=O | C16H22N4O2
